US08232294B2
Step 1) ethyl 2-(tetrahydro-2H-pyran-2-yloxy)acetate
To a mixture of ethyl 2-hydroxyacetate (2 g, 20 mmol, Aldrich) and 3,4-dihydro-2H-pyran (3.2 g, 40 mmol, Alfa) in 40 mL of CH2Cl2 was added PPTS (500 mg, 2 mmol) slowly at rt. The mixture was stirred at rt for 4 hours, and then the mixture was washed with brine (20 mL×2), the combined organic phases were dried over Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (PE: EtOAc=20:1) to give colorless oil (3.01 g, 81%).

reactant | ethyl 2-hydroxyacetate | 20 mmol, 2 g | OCC(=O)OCC | C4H8O3
reactant | 3,4-dihydro-2H-pyran | 40 mmol, 3.2 g | O1CCCC=C1 | C5H8O
reactant | PPTS | 2 mmol, 500 mg | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-(tetrahydro-2H-pyran-2-yloxy)acetate | 3.01 g, 81% | O1C(CCCC1)OCC(=O)OCC | C9H16O4
